US07064122B2
4-Methyl-2-octyloxycarbonylamino-thiophene-3-carboxylic acid.
(8.1) To a stirring solution of 4-methyl-2-octyloxycarbonylamino-thiophene-3-carboxylic acid ethyl ester (254 mg, 0.74 mmol) in ethanol (2 mL) and THF (2 mL) was added LiOH—H2O (31 mg, 0.74 mmol). The reaction was stirred at RT for 5 days, and then solvent was removed under reduced pressure to give a solid. The product was taken on without further purification: 1H NMR (CDCl3) δ 6.02 (s, 1H), 4.07 (t, 2H, J=6.6 Hz), 2.32 (s, 3H), 1.60-1.40 (m, 2H), 1.27 (bs, 10H), 0.86 (t, 3H, J=6.6 Hz).

reactant | 4-methyl-2-octyloxycarbonylamino-thiophene-3-carboxylic acid ethyl ester | 0.74 mmol, 254 mg | C(C)OC(=O)C1=C(SC=C1C)NC(=O)OCCCCCCCC | C17H27NO4S
reactant | LiOH—H2O | 0.74 mmol, 31 mg | O[Li].O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Methyl-2-octyloxycarbonylamino-thiophene-3-carboxylic acid | CC=1C(=C(SC1)NC(=O)OCCCCCCCC)C(=O)O | C15H23NO4S
